US06008230
A mixture of 8-(2,6-dichlorobenzoylamino)-4-ethoxycarbonylmethylquinazoline (90 mg) and 1N sodium hydroxide solution (1 ml) in ethanol (5 ml) was refluxed for 30 minutes. The mixture was diluted with water, and the resulting precipitate was collected by filtration and washed with water to give 8-(2,6-dichlorobenzoylamino)-4-methylquinazoline (70 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-4-ethoxycarbonylmethylquinazoline | 90 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=NC=NC23)CC(=O)OCC)C(=CC=C1)Cl | C19H15Cl2N3O3
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 8-(2,6-dichlorobenzoylamino)-4-methylquinazoline | 70 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=NC=NC23)C)C(=CC=C1)Cl | C16H11Cl2N3O
